US07749994B2
DMF (10 ml) was added to 0.6 g of 60% NaH (15.12 mM) in a 100 mL round bottom flask under N2. Added to the flask was 1.29 g of 5-nitro-2-benzimidazolinone (7.20 mM) in 10 mL DMF and rinsed with 10 mL more DMF. The solution was stirred 25 minutes and 10.22 g MeI (72 mM) was added and then stirred a further 3 hours. HCl (200 mL, 1 M) was added to the solution and then was extracted with EtOAc, washed with brine, and dried over MgSO4 and then concentrated in vacuo and flashed 0 to 100% EtOAc in hexanes to give 1.4 g of 1,3-dimethyl-5-nitro-1H-benzo[d]imidazol-2(3H)-one (93% yield).

reactant | NaH | 15.12 mM, 0.6 g | [H-].[Na+]
reactant | 5-nitro-2-benzimidazolinone | 7.20 mM, 1.29 g | [N+](=O)([O-])C1=CC2=C(NC(N2)=O)C=C1 | C7H5N3O3
reactant | DMF | 10 mL | CN(C)C=O | C3H7NO
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 1,3-dimethyl-5-nitro-1H-benzo[d]imidazol-2(3H)-one | 1.4 g, 93% yield | CN1C(N(C2=C1C=CC(=C2)[N+](=O)[O-])C)=O | C9H9N3O3
